US07470691B2
2-[4-(1H-pyrrolo[2,3-b]pyridin-2-ylmethyl)-1-piperazinyl]benzonitrile
1H-pyrrolo[2,3-b]pyridine (47 mg, 0.40 mmol), 2-(1-piperazinyl)benzonitrile (65 mg, 0.48 mmol), sodium acetate (72 mg, 0.53 mmol), and formaldehyde (0.48 mmol) were combined in water and glacial acetic acid (1:2, 1 mL) and stirred at room temperature for 18 hours. The mixture was treated with a solution of 2M NaOH and concentrated under reduced pressure. The residue was treated with hot methanol. The methanol was filtered and the filter cake was washed with cold methanol to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ 2.62 (m, 4H) 3.14 (m, 4H) 4.03 (s, 2H) 5.60 (s, 1H) 7.09 (m, 3H) 7.61 (m, 2H) 8.06 (dd, J=8.31, 1.53 Hz, 1H) 8.20 (dd, J=4.75, 1.70 Hz, 1H). (ESI) m/z 318 (M+H)+.

reactant | 1H-pyrrolo[2,3-b]pyridine | 0.40 mmol, 47 mg | N1C=CC=2C1=NC=CC2 | C7H6N2
reactant | 2-(1-piperazinyl)benzonitrile | 0.48 mmol, 65 mg | N1(CCNCC1)C1=C(C#N)C=CC=C1 | C11H13N3
reactant | sodium acetate | 0.53 mmol, 72 mg | C(C)(=O)[O-].[Na+]
reactant | formaldehyde | 0.48 mmol | C=O | CH2O
reactant | NaOH | 2M | [OH-].[Na+]
solvent | water | O | H2O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 2-[4-(1H-pyrrolo[2,3-b]pyridin-2-ylmethyl)-1-piperazinyl]benzonitrile | N1C(=CC=2C1=NC=CC2)CN2CCN(CC2)C2=C(C#N)C=CC=C2 | C19H19N5
